US06849749B2
5-(N,N-dimethylcarbamyl)phthalid
A solution of 5-chlorocarbonylphthalid (32 g, 0.16 mole) in THF (300 ml) is added to dimethylamine (40% v/v in water, 300 ml) and ice (100 g). The mixture is stirred for 1 hour. THF is evaporated off in vacuo and precipitated crystals are filtred off at 5° C. and washed with water (100 ml).

reactant | 5-chlorocarbonylphthalid | 0.16 mole, 32 g | ClC(=O)C=1C=C2COC(=O)C2=CC1 | C9H5ClO3
reactant | dimethylamine | 300 ml | CNC | C2H7N
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 5-(N,N-dimethylcarbamyl)phthalid | CN(C(=O)C=1C=C2COC(=O)C2=CC1)C | C11H11NO3
